datasets/10k__Tet_Int.csv
SMILES Labelled
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]CC 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C7=CC=CC=C7)C([H])[S]1 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21][H])[S]C(C)C([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(C)C([H])[O]2.C[S:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[H][NH:10]C(C)C([H])C(CC)[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C([O-:21])CCCCCC)CC)C>>CN([C:20]1(OC(C([O:21]1)CCCCCC)CC)[O-:10])C 21=20;20,10=10"
"[NH:10]([H])C(CC)C(C)/C(C)=C([H])\[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])=C(C)C(C)C(CC)[NH+:10]1([H]) 10=20;20,21=21"
"CC[S+:10]([H])[C:20]([O:21][H])([O]CC)[S]C.[Cl-]>>[Cl-].CC[S:10][H].[H][O+:21]=[C:20]([O]CC)[S]C 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21][H])[O]C(CC)C(C)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(CC)C(C)[O]2.C[NH:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C([H])C(CC)[O][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H] 10=20;20,21=21"
"[H][S:10]C(CC)C([H])C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C(C)[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[S][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[S][H] 10=20;20,21=21"
"[O-:10]C(CC)/C(C)=C([H])\C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C([H])=C(C)C(CC)[O:10]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([NH:21]C)([NH]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].CC[O:10][H].C[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)CCCCCC)CCCCCC)[O-:10])C>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)CCCCCC)C 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1CC)C)CCCCCC.[O-:21][H]>>CCC1C(C(O[C:20](N1CC)([O-:10])[O:21][H])C)CCCCCC 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][O:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(C)C(O)C(C)C(C)C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)C(C)C(C)C(O)[C:20](C)=[O:21] 21=20;20,10=10"
"[O-:21][C:20]1(C)C(C)=C(C)C(C)C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)C(C)/C(C)=C(C)\[C:20](C)=[O:21] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH](CC)[S]1 10=20;20,21=21"
"[H][O:10][H].[H][O+:21]=[C:20]([S]CC)[O]C.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([O:21][H])([S]CC)[O]C 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(C)C(C)=C(C)C(CC)[O:10]1>>[O-:10]C(CC)/C(C)=C(C)\C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][O+:10](C(C)C(C)[S]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)[S][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"[H][NH+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S]C(CC)C([H])[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(CC)C([H])[S]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[H][O+:10](C([H])C(CC)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21]C)[S]C([H])C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C([H])C(C8=CC=CC=C8)[O]2.CC[S:10][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1CC)OCCCCCC)C)C>>C(C([O-:21])CC)(C(O[C:20](=[O:10])OCCCCCC)C)C 10=20;20,21=21"
"[H][NH+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[O]2.CC[S:10][H] 21=20;20,10=10"
"CCN([C:20]1(OC(C([O:21]1)CC)C)[O-:10])C>>CCN([C:20](=[O:10])OC(C([O-:21])CC)C)C 10=20;20,21=21"
"[O-:10]C1=C(C(C)[C:20](OC)=[O:21])C=CC=C1>>[O-:21][C:20]2([O:10]C(C=CC=C3)=C3C2C)OC 10=20;20,21=21"
